US07396958B2
N-{4-chloro-2-[(3-methoxyphenyl)(hydroxy)methyl]phenyl}-3,4-dimethoxybenzenesulfonamide
To 1 g of (2-amino-5-chlorophenyl)(3-methoxyphenyl)methanol dissolved in 6 ml of pyridine are added, at room temperature, 1.08 g of 3,4-dimethoxybenzenesulfonyl chloride. After 18 hours, the reaction medium is taken up in ethyl acetate and washed with water. The organic phase is dried over anhydrous sodium sulfate and concentrated. The residue is chromatographed on a column of silica gel, eluting with dichloromethane to give 1.65 g of the expected product.

reactant | (2-amino-5-chlorophenyl)(3-methoxyphenyl)methanol | 1 g | NC1=C(C=C(C=C1)Cl)C(O)C1=CC(=CC=C1)OC | C14H14ClNO2
reactant | 3,4-dimethoxybenzenesulfonyl chloride | 1.08 g | COC=1C=C(C=CC1OC)S(=O)(=O)Cl | C8H9ClO4S
solvent | pyridine | 6 ml | N1=CC=CC=C1 | C5H5N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-{4-chloro-2-[(3-methoxyphenyl)(hydroxy)methyl]phenyl}-3,4-dimethoxybenzenesulfonamide | 1.65 g | ClC1=CC(=C(C=C1)NS(=O)(=O)C1=CC(=C(C=C1)OC)OC)C(O)C1=CC(=CC=C1)OC | C22H22ClNO6S
